US04743691
To a solution of methyl 2-chloromethyl-2,6-bis(benzylideneamino)hexanoate (2.85 g, 7.4 mmol) in ether (6 ml), is added 1N HCl (20 ml) under vigorous stirring. The reaction mixture is stirred overnight at room temperature and then extracted with ether. The aqueous phase is evaporated to dryness under vacuo to afford methyl 2-chloromethyl-2,6-diaminohexanoate dihydrochloride as an oily and hygroscopic residue (2.05 g).

reactant | methyl 2-chloromethyl-2,6-bis(benzylideneamino)hexanoate | 7.4 mmol, 2.85 g | ClCC(C(=O)OC)(CCCCN=CC1=CC=CC=C1)N=CC1=CC=CC=C1 | C22H25ClN2O2
reactant | HCl | 1N, 20 ml | Cl | ClH
solvent | ether | 6 ml | CCOCC | C4H10O
product | methyl 2-chloromethyl-2,6-diaminohexanoate dihydrochloride | Cl.Cl.ClCC(C(=O)OC)(CCCCN)N | InChI=1S/C8H17ClN2O2.2ClH/c1-13-7(12)8(11,6-9)4-2-3-5-10;;/h2-6,10-11H2,1H3;2*1H
